US05734051
1,3-Di-n-butyl-8-piperidino Xanthine
1,3-Di-n-butyl-8-bromo xanthine (2 g, 0.0029 mol) was dissolved in toluene (50 ml). After addition of piperidine (5 g, 0.0058 mol) the mixture was refluxed for 9 hours. The reaction mixture was then extracted with water (4×30 ml), the organic layer dried over anhydrous sodium sulphate and the solvent removed in vacuo. The residue was recrystallised from ethanol to give the title product, yield 0.4 g (20%), m.pt. 221° C.

reactant | 1,3-Di-n-butyl-8-bromo xanthine | 0.0029 mol, 2 g | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)Br)CCCC | C13H19BrN4O2
reactant | piperidine | 0.0058 mol, 5 g | N1CCCCC1 | C5H11N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Di-n-butyl-8-piperidino Xanthine | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)N1CCCCC1)CCCC | C18H29N5O2
